US06291452B1
A mixture of (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-1-(2-nitrophenacyl)-1H-1,4-benzodiazepin-2-one (300 mg)and 30% hydrobromic acid in acetic acid (3 ml) was stirred at room temperature for 4.5 hours. Water and ice were added to the reaction mixture to afford powder, which was collected by filtration, and washed with water to give (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-1-(2-nitrophenacyl)-1H-1,4-benzodiazepin-2-one hydrobromide (227 mg, 81.8%).

reactant | (3RS)-3-benzyloxycarbonylamino-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-1-(2-nitrophenacyl)-1H-1,4-benzodiazepin-2-one | 300 mg | C(C1=CC=CC=C1)OC(=O)NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C)CC(=O)C2=C(C=CC=C2)[N+](=O)[O-])=O | C32H25FN4O6
reactant | hydrobromic acid | Br | BrH
reactant | Water | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-9-methyl-1-(2-nitrophenacyl)-1H-1,4-benzodiazepin-2-one hydrobromide | 227 mg, 81.8% | Br.NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2C)CC(=O)C2=C(C=CC=C2)[N+](=O)[O-])=O | InChI=1S/C24H19FN4O4.BrH/c1-14-7-6-10-17-21(15-8-2-4-11-18(15)25)27-23(26)24(31)28(22(14)17)13-20(30)16-9-3-5-12-19(16)29(32)33;/h2-12,23H,13,26H2,1H3;1H
